US04072498
Using the procedure of Example 1, but substituting 2-bromo-N,N-dimethylbutyramide for 2-chloro-N,N-dimethylpropionamide and 3-(2-chloro-5-methylphenyl)-4-methylpyrazole for 4-methyl-3-phenylpyrazole there is obtained 3-(2-chloro-5-methylphenyl)-α-ethyl-N,N,4-trimethylpyrazole-1-acetamide isolated as an oil.

reactant | 2-chloro-N,N-dimethylpropionamide | ClC(C(=O)N(C)C)C | C5H10ClNO
reactant | 3-(2-chloro-5-methylphenyl)-4-methylpyrazole | ClC1=C(C=C(C=C1)C)C1=NNC=C1C | C11H11ClN2
reactant | 4-methyl-3-phenylpyrazole | CC=1C(=NNC1)C1=CC=CC=C1 | C10H10N2
product | 3-(2-chloro-5-methylphenyl)-α-ethyl-N,N,4-trimethylpyrazole-1-acetamide | ClC1=C(C=C(C=C1)C)C1=NN(C=C1C)C(C(=O)N(C)C)CC | C17H22ClN3O
